US07348359B2
Bromoacetaldehyde dimethyl acetal (0.692 mL, 5.85 mmol) was refluxed in a solution of water (10 mL) and concentrated HCl (0.1 mL) for 30 min. The reaction was cooled to ambient temperature, and sodium bicarbonate (629 mg, 7.49 mmol) was added in several portions. After the addition was complete, 3-(6-amino-pyridin-3-yl)-but-2-enoic acid methyl ester (900 mg, 4.68 mmol) was added, and the reaction stirred overnight. During this time, the reaction became homogenous. After extracting the reaction mixture with ethyl acetate (3×20 mL), the organic layers were combined, dried over MgSO4 and concentrated in vacuo. The residue was purified by chromatography (chromatotron, 4μ plate, 50% ethyl acetate in hexanes) to yield 3-imidazo[1,2-a]pyridin-6-yl-but-2-enoic acid methyl ester as an off white solid (223.3 mg, 22%). 1H NMR (250 MHz, CDCl3): δ 8.32 (bs, 1H), 7.58-7.70 (m, 3H), 7.35 (dd, 1H, J=7.5, J=3.1), 6.24 (d, 1H, J=0.62), 3.31 (s, 3H), 2.64 (d, 3H, J=0.62). MS [EI+] 217 (M+H)+.

reactant | Bromoacetaldehyde dimethyl acetal | 5.85 mmol, 0.692 mL | COC(CBr)OC | C4H9BrO2
reactant | HCl | 0.1 mL | Cl | ClH
reactant | sodium bicarbonate | 7.49 mmol, 629 mg | C([O-])(O)=O.[Na+]
reactant | 3-(6-amino-pyridin-3-yl)-but-2-enoic acid methyl ester | 4.68 mmol, 900 mg | COC(C=C(C)C=1C=NC(=CC1)N)=O | C10H12N2O2
solvent | water | 10 mL | O | H2O
product | 3-imidazo[1,2-a]pyridin-6-yl-but-2-enoic acid methyl ester | COC(C=C(C)C=1C=CC=2N(C1)C=CN2)=O | C12H12N2O2
